US09290496B2
Step 3: Preparation of N-((3R,4R)-4-fluoro-1-(9-isopropyl-6-((1-methyl-1H -pyrazol-4-yl)amino)-9H-purin-2-yl)pyrrolidin-3-yl)acrylamide
Crude 2-((trans)-3-amino-4-fluoropyrrolidin-1-yl)-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine (assumed 1 mmol ca.) was partitioned between DCM (30 mL) and sat. aq. NaHCO3 (10 mL) and stirred vigorously. Acryloyl chloride (121 μL, 1.5 mmol) was added in one portion and the mixture stirred for 30 min. The mixture was then diluted with DCM (50 mL) and the organic layer was separated, dried over Na2SO4 and evaporated to give a dark residue that was subjected to chiral SFC purification to separate the two trans enantiomers (Chiralpak AD-H 21.2×250 mm 5μ column. Eluted with 30% EtOH (200 proof) in CO2 held 38° C. at 100 bar, ˜60.0 mL/min, UV detection at λ=260 nm. Peak 1(−) elutes 3.99-4.68 min. Peak 2(+) elutes 5.80-6.38 min). Yielded:

reactant | 2-((trans)-3-amino-4-fluoropyrrolidin-1-yl)-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | 1 mmol | N[C@@H]1CN(C[C@H]1F)C1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C | C16H22FN9
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | Acryloyl chloride | 1.5 mmol, 121 μL | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-((3R,4R)-4-fluoro-1-(9-isopropyl-6-((1-methyl-1H -pyrazol-4-yl)amino)-9H-purin-2-yl)pyrrolidin-3-yl)acrylamide | F[C@H]1[C@@H](CN(C1)C1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C)NC(C=C)=O | C19H24FN9O
